Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Imbalance
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ (BID #: ___) is a ___ year-old right-handed
male who presents with acute onset of feeling unwell, 
unbalanced,
and disoriented with an unsteady gait.  He was last well at
approximately 1:00 ___ this afternoon.  Later (approximately
1:30), he was sitting when he suddenly felt lightheaded and
"imbalanced" - feeling like he was going to fall over.  He then
tried to stand up to see if the feeling would resolve, but he
noticed that his gait was unsteady, almost as if he had
"overindulged in alcohol" with frequent side steps although he
never fell.  Hoping that he would get better, he went to an art
gallery as he had previously planned.  While there, he continued
to feel "easy" and noticed that his vision was off, with images
seemingly blurred or out of focus.

Because the symptoms continued, he decided to come to the
hospital for further evaluation.  His medical history is notable
for HSV, for which he is on prophylaxis, hyperlipidemia (on
atorvastatin 80) benign essential tremor (managed with daily
propranolol as well as zonisamide), "borderline diabetes," and
former smoking history (1 pipe per day but quit ___ years 
ago",
but he does not have known hypertension.  
 
Past Medical History:
BENIGN FAMILIAL TREMOR                                          
CONTROLLED ON Zonisamide and Propranolol                         


BORDERLINE HYPERCHOLESTEROLEMIA                                 

DIARRHEA                                                        
had w/u in ___, incl stool cx's and barium enema.               

HEALTHCARE MAINTENANCE                                          

HEPATITIS B CARRIER                                   ___      
+surface ag and core ab.  nl lft's.                             

HX BLASTOCYSTIS HOMINI                                          

HX ENTABOEBA HISTOLYTICA                                        
TREATED ___                                                   

NEPHROLITHIASES                                       ___      

 
Social History:
___
Family History:
No Family History currently on file.
 
Physical Exam:
ADMISSION EXAMINATION

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, full ROM
Pulmonary: Breathing comfortably on room air
Cardiac: Warm and well perfused, with brisk capillary refill
Abdomen: soft, NT/ND
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name days of the week
backward without difficulty. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 5 to 3mm and brisk.  Horizontal gaze
notable for less than full abduction bilaterally, with rightward
beating nystagmus when looking to the right and then leftward
beating nystagmus looking to the left.  Consequently he has
horizontal diplopia, mild on the left with only blurring of
objects but on rightward gaze, he sees nearly 2 complete 
objects.
Head impulse test attempted however with inconsistent results,
likely due to examiner. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. + Left upper extremity essential tremor. No
asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, or cold
sensation; distally decreased to vibratory sense in the 
bilateral
lower extremities.  Proprioception intact throughout. No
extinction to DSS.

-DTRs:
  Bi ___ Pat Ach
L  2   2    2   trace
R  2  2    2   trace
Plantar response was flexor bilaterally.

-Coordination: + Essential tremor on the left.  Dysmetria also
present on the left with finger-nose-finger testing, normal on
the right.  No dysdiadochokinesia noted. No dysmetria on HKS
bilaterally.

-Gait: Deferred

DISCHARGE EXAMINATION
 General: awake, cooperative, NAD
 HEENT: NC/AT, no scleral icterus noted, MMM
 Pulmonary: breathing comfortably, no tachypnea or increased WOB
 Cardiac: skin warm, well-perfused
 Extremities: symmetric, no edema

Neurologic:

-Mental Status: Alert, oriented x 3. Language is fluent with
intact comprehension. Able to follow both midline and
appendicular commands. 

-Cranial Nerves: PERRL (7 to 5 mm ___. VFF to confrontation.
EOMI without diplopia or nystagmus. Facial sensation intact to 
light touch. Face symmetric at rest and with activation. Hearing 
intact to conversation.
Palate elevates symmetrically. ___ strength in trapezii 
bilaterally. Tongue protrudes in midline.

-Motor: No pronator drift bilaterally. Postural tremor on the
left hand.
   Delt Bic Tri WrE FE IP Quad Ham TA ___
 L  5    ___  ___    5  5     5   
 R  5    ___  ___    5  5     5   

-Sensory: Intact to LT throughout. No extinction to DSS.

-DTRs: ___ response was flexor bilaterally.

-Coordination: Postural tremor without superimposed action 
tremor
or dysmetria with FNF on the left, unremarkable on right.

 
Pertinent Results:
HEMATOLOGY AND CHEMISTRIES

___ 06:00AM BLOOD WBC-8.2 RBC-3.63* Hgb-11.8* Hct-35.6* 
MCV-98 MCH-32.5* MCHC-33.1 RDW-13.5 RDWSD-48.3* Plt ___
___ 06:00AM BLOOD Glucose-101* UreaN-18 Creat-1.1 Na-142 
K-4.5 Cl-104 HCO3-25 AnGap-13
___ 06:00AM BLOOD Calcium-9.1 Phos-3.5 Mg-2.2 Cholest-152
___ 06:00AM BLOOD %HbA1c-6.4* eAG-137*
___ 06:00AM BLOOD Triglyc-82 HDL-56 CHOL/HD-2.7 LDLcalc-80
___ 06:00AM BLOOD TSH-1.9

IMAGING

___ 2:55 ___ CTA HEAD W&W/O C & RECONS; CTA NECK W&W/OC & 
RECONS; CT BRAIN PERFUSION 
1. No evidence for acute intracranial hemorrhage or territorial 
infarction. 
2. Patent intracranial and cervical vasculature without evidence 
of high-grade stenosis, occlusion, or aneurysm. 
3. Nodular atelectasis within the posterior right upper lobe is 
incompletely evaluated, and underlying consolidation or mass is 
not excluded.  Recommend short interval follow-up chest imaging 
to assess for resolution. 

Portable TTE (Complete) Done ___ at 12:14:19 ___ 
Normal biventricular cavity sizes with preserved regional and 
global biventricular systolic function. No valvular pathology or 
pathologic flow identified. No definite structural cardiac 
source of embolism identified.

___ 3:18 ___ MR HEAD W/O CONTRAST 
No acute intracranial pathology. 
Moderate brain parenchymal atrophy. 

 
Brief Hospital Course:
___ RHM with history notable for essential tremor, HLD, 
"borderline" DMII, HSV (on acyclovir), and remote tobacco use 
admitted with acute-onset disequilibrium and diplopia s/p tPA at 
15:40 on ___. Follow-up brain MRI did not reveal ischemia or 
hemorrhage and symptoms resolved on follow-up examination, 
suggesting that symptoms were due to a transient ischemic 
attack, likely in the posterior circulation. Echocardiography 
did not reveal PFO or ASD. Laboratory testing revealed 
prediabetes with Hgb A1c of 6.4%.

TRANSITIONAL ISSUES
1. Outpatient Neurology follow-up.
2. Outpatient cardiac monitoring for four weeks to assess for 
paroxysmal atrial fibrillation.
3. Follow up of blood glucose and discussion of treatment 
options for prediabetes.
4. Follow-up chest imaging to assess for resolution of nodular 
atelectasis in the posterior right upper lobe.
 
Medications on Admission:
1. Acyclovir 400 mg PO BID 
2. Atorvastatin 80 mg PO QPM 
3. Propranolol LA 160 mg PO DAILY 
4. Zonisamide 50 mg PO BID 
5. Multivitamins 1 TAB PO DAILY 
6. Glucoten (glucosamine-chondroit-mv-min3) 375-300-25-0.5 mg 
oral QAM 
7. Vitamin D 1000 UNIT PO DAILY 
8. Fish Oil (Omega 3) ___ mg PO DAILY 
9. Aspirin 81 mg PO DAILY 
10. Psyllium Powder 1 PKT PO DAILY 

 
Discharge Medications:
1.  Acyclovir 400 mg PO BID  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Fish Oil (Omega 3) ___ mg PO DAILY  
5.  Glucoten (glucosamine-chondroit-mv-min3) 375-300-25-0.5 mg 
oral QAM  
6.  Multivitamins 1 TAB PO DAILY  
7.  Propranolol LA 160 mg PO DAILY  
8.  Psyllium Powder 1 PKT PO DAILY  
9.  Vitamin D 1000 UNIT PO DAILY  
10.  Zonisamide 50 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient ischemic attack
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,  

You were hospitalized due to symptoms of abrupt imbalance 
resulting from a transient ischemic attack (TIA), a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is momentarily blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 - Pre-diabetes
 - High cholesterol

As you are already taking a high-dose statin for your 
cholesterol, no medication changes were made during your stay. 
However, you should discuss your pre-diabetes with your primary 
care provider to explore treatment options.

You will also need to have heart rhythm monitoring after leaving 
the hospital for four weeks to assess for atrial fibrillation, 
an abnormal heart rhythm that can predispose you to future 
strokes. Please call ___ to schedule an appointment to 
receive your cardiac monitor ___ of Hearts) device.

Please follow up with your primary care physician ___ ___ 
weeks of discharge. Your primary care provider can help you 
schedule follow-up with ___ Neurology.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

Sincerely,  
Your ___ Neurology Team  
 
Followup Instructions:
___